US05728419
29 parts of liquid saccharose and 49 parts of water were mixed at 60° C. 0.2 parts of stabiliser formed by carrageenans and xanthan gum and 3.5 parts of glucose syrup were then added. 15.5 parts of apple puree, colouring agent and finally 2.1 parts of citric acid were then added thereto. After pasteurisation of the mixture at 86° C. for 23 seconds, the composition was cooled to 4° C. and left to rest for 4 hours at this temperature. It was brought to 100 parts by the addition of cola aroma.

reactant | saccharose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
solvent | water | O | H2O
product | glucose syrup | C([C@@H]1[C@H]([C@@H]([C@H](C(O1)O)O)O)O)O.O | InChI=1S/C6H12O6.H2O/c7-1-2-3(8)4(9)5(10)6(11)12-2;/h2-11H,1H2;1H2/t2-,3-,4+,5-,6?;/m1./s1
